US05558971
A suspension of poly(p-hydroxystyrene) (4.0 g) obtained in the same manner as described in Reference Example 1, (2), tert-butyl monochloroacetate (3.0 g) and anhydrous K2CO3 (2.8 g) in acetone (35 ml) was reacted with stirring for 2 hours under reflux. After cooling, the precipitate was filtered off, the filtrate was poured into H2O (1 l) and was precipitated. The precipitate was filtered, washed with H2O and dried under reduced pressure to give 5.2 g of poly(tert-butyl p-vinylphenoxyacetate/p-hydroxystyrene) as white powder having Mw 11000 (GPC with polystyrene calibration). The polymer was found to have tert-butyl p-vinylphenoxyacetate unit and p-hydroxystyrene unit in a molar ratio of ca. 1:1 based on 1HNMR.

reactant | poly(p-hydroxystyrene) | 4.0 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | tert-butyl monochloroacetate | 3.0 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | K2CO3 | 2.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | tert-butyl p-vinylphenoxyacetate p-hydroxystyrene | C(=C)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C14H18O3.C8H8O/c1-5-11-6-8-12(9-7-11)16-10-13(15)17-14(2,3)4;1-2-7-3-5-8(9)6-4-7/h5-9H,1,10H2,2-4H3;2-6,9H,1H2
